US06476235B2
A nitrogen inerted reactor, equipped with a suitable reflux condenser and soxhlet extractor containing freshly activated 3A molecular sieves (4-8 mesh; 97.2 g), is charged with 3-amino-1-morpholin-4-yl-propan-1-one, compound with phenylacetic acid (765 mmol) and 2-[2-(4-fluorophenyl)-2-oxo-1-phenyl-ethyl]-4-methyl-3-oxo-pentanoic acid phenylamide (450 mmol). THF (360 mL) is added, and the resulting solution is stirred vigorously as the reaction is heated at reflux temperature for ca. 24 hours, during which time the product begins to precipitate. Half-saturated aqueous NaHCO3 (100 mL) is added, and the reaction mixture is cooled with continued stirring to ca. 0° C. MtBE (100 mL) is added, and the solids are collected via filtration. The solid is washed with distilled water (100 mL) and MtBE (2×100 mL), collected, and dried under vacuum at ≦50° C. to afford 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide as a white solid (194 g). This material is carried on to subsequent steps without further purification.

reactant | 3-amino-1-morpholin-4-yl-propan-1-one | NCCC(=O)N1CCOCC1 | C7H14N2O2
reactant | phenylacetic acid | 765 mmol | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2-[2-(4-fluorophenyl)-2-oxo-1-phenyl-ethyl]-4-methyl-3-oxo-pentanoic acid phenylamide | 450 mmol | C1(=CC=CC=C1)NC(C(C(C(C)C)=O)C(C(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1)=O | C26H24FNO3
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | 5-(4-fluorophenyl)-2-isopropyl-1-(3-morpholin-4-yl-3-oxo-propyl)-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide | 194 g | C1(=CC=CC=C1)NC(=O)C1=C(N(C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)F)CCC(=O)N1CCOCC1)C(C)C | C33H34FN3O3
